US08022222B2
Using the method of Example 3, Step A, 3-(tert-butyldimethylsilyloxy)benzenethiol (1.52 g, 6.31 mmol), 60% sodium hydride in mineral oil (252 mg, 6.31 mmol), and 2-chloro-4-nitropyridine (1.00 g, 6.31 mmol) were reacted to provide 4-(3-(tert-butyldimethylsilyloxy)phenylthio)-2-chloropyridine (1.43 g, 64% yield) as an oil. 1H NMR (CDCl3) δ 8.11 (d, 1H), 7.34 (t, 1H), 7.16 (d, 1H) 7.02 (s, 1H), 6.97 (d, 1H), 6.90 (s, 1H), 6.87 (d, 1H).

reactant | 3-(tert-butyldimethylsilyloxy)benzenethiol | 6.31 mmol, 1.52 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)S | C12H20OSSi
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 6.31 mmol, 1.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 4-(3-(tert-butyldimethylsilyloxy)phenylthio)-2-chloropyridine | 1.43 g, 64% yield | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)SC1=CC(=NC=C1)Cl | C17H22ClNOSSi
